US04816587
Preparation of 2-bromo-α-ergocryptine
Following the process of Example 30, 1 g of α-ergocryptine phosphate is brominated with 2.0 ml of trimethylbromosilane. After isolating, the title base is obtained in a yield of 0.9 g (0.001359 mole, 91.5%), m.p.: 218° C., [α]D20 =-195° (c=1, dichloromethane).

reactant | α-ergocryptine phosphate | 1 g | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=CNC7=CC=CC(=C67)C5=C4)C)O.OP(=O)(O)O
reactant | trimethylbromosilane | 2.0 ml | C[Si](Br)(C)C | C3H9BrSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-α-ergocryptine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C(C)C)NC(=O)[C@H]4CN([C@@H]5CC6=C(NC7=CC=CC(=C67)C5=C4)Br)C)O | C32H40BrN5O5
